US08008305B2
a) 4-(5-Benzylcarbamoyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
In analogy to example 1 4-(5-phenethylcarbamoyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester was prepared starting from N-Boc-piperazine and using benzylamine in the last coupling step. Light yellow solid. MS (ISP): 397.5 ([M+H]+)

reactant | 4-(5-phenethylcarbamoyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)C(NCCC1=CC=CC=C1)=O | C23H30N4O3
reactant | N-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 4-(5-Benzylcarbamoyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)C(NCC1=CC=CC=C1)=O | C22H28N4O3
